US06268391B1
To a stirred solution of 10.0 g (60.0 mmol) of chloral hydrate in 250 mL of water was added 70.0 g (220 mmol) of sodium sulfate decahydrate, followed by a solution of 11.8 g (170 mmol) of hydroxylamine hydrochloride in 100 mL of water. A solution of 7.8 g (54 mmol) of 6-aminoquinoline in 200 mL of 1.0 N HCl was then added with stirring. The resulting suspension was warmed, and 400 mL of 95% EtOH was added to dissolve the suspension. The solution was refluxed for 0.75 h and then cooled to ambient temperature. The solution was neutralized with addition of solid sodium bicarbonate, and the resulting solid was collected by vacuum filtration and air dried to afford 8.1 g (60%) of 2-hydroxyimino-N-(6-quinolinyl)acetamide as a solid: 1H NMR (DMSO-d6): 7.76 (s, 1H); 7.80 (dd, 1H, J=3.7, 8.4 Hz); 8.14 (s, 2H); 8.68 (s, 1H); 8.77 (d, 1H, J=8.4 Hz); 9.02 (d, 1H, J=3.7 Hz); 10.73 (s, 1H); 12.34 (s, 1H). Mass spectrum (negative ion chemical ionization): m/z=214 (60%).

reactant | chloral hydrate | 60.0 mmol, 10.0 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate decahydrate | 220 mmol, 70.0 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 170 mmol, 11.8 g | Cl.NO
reactant | 6-aminoquinoline | 54 mmol, 7.8 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 250 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | HCl | 1.0 N, 200 mL | Cl | ClH
solvent | EtOH | 400 mL | CCO | C2H6O
product | 2-hydroxyimino-N-(6-quinolinyl)acetamide | 8.1 g, 60% | ON=CC(=O)NC=1C=C2C=CC=NC2=CC1 | C11H9N3O2
